US07361682B2
a) Step 1: 5-(1-isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid ethyl ester
A mixture of 3.08 g (15 mmol) 5-hydroxy-1H-indole-2-carboxylic acid ethyl ester, 2.51 g (20 mmol) 1-isopropyl-3-pyrrolidinol and 8.7 ml (30 mmol) tri-N-butyl phosphine in 75 ml was treated at room temperature with 7.57 g (30 mmol) 1,1′-(azodicarbonyl)-dipiperidine in 75 ml THF. The mixture was allowed to stir for a prolonged period of time and subsequently evaporated to dryness. The residue was suspended in 40 ml DCM/n-heptane 1/1, filtered and again washed with 40 ml DCM/n-heptane 1/1. The filtrate was evaporated and purified on silica eluting with a gradient of DCM/2N NH3 in methanol 99/1 to DCM/2N NH3 in methanol 93/7. The product fractions were evaporated and the residue was titurated with diethyl ether to yield after filtration, washing and drying of the residue at 50° C. under vacuum 2.1 g (44%) of the title compound as off-white solid. MS (m/e): 317.1 (MH+, 100%).

reactant | 5-hydroxy-1H-indole-2-carboxylic acid ethyl ester | 15 mmol, 3.08 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)O | C11H11NO3
reactant | 1-isopropyl-3-pyrrolidinol | 20 mmol, 2.51 g | C(C)(C)N1CC(CC1)O | C7H15NO
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 30 mmol, 7.57 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 75 ml | C1CCOC1 | C4H8O
product | 5-(1-isopropyl-pyrrolidin-3-yloxy)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC1CN(CC1)C(C)C | C18H24N2O3
